### PR TITLE
feat(Geometry/Convex): `positivity` extension for `StdSimplex.weights`

### PR DESCRIPTION
**Pull request by YaelDillies**
Also add some Qq helper to Qq-match a type with `Finsupp`.

From the Polyhedra in Berlin workshop where people would have found it useful for `positivity` to close some goals.

Generated by Claude Opus in a few prompts worth of review.

Assisted-by: Claude Opus 5

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 1]
```diff
@@ -757,3 +761,31 @@ lemma isAffineMap_convexCombPair (m : X) :
...
+open Lean Meta Qq Convexity
+
+/-- Extension for the `positivity` tactic: the weights of a `StdSimplex` are always nonnegative,
+and even positive, ie nonzero, when `R` is nontrivial. -/
+@[positivity Convexity.StdSimplex.weights _]
+meta def evalStdSimplexWeights : PositivityExt where eval {_ _} _zα pα? e :=
+  match pα? with | none => pure .none | some _ => do
+  let w ← match ← whnfR e with
+    | .app _ w | .proj ``StdSimplex 0 w => pure w
+    | _ => throwError "not `StdSimplex.weights`"
```
Comment (eric-wieser) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: Let's use qq here

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 2]
```diff
@@ -757,3 +761,31 @@ lemma isAffineMap_convexCombPair (m : X) :
 end CommSemiring
 
 end Convexity
+
+namespace Mathlib.Meta.Positivity
+open Lean Meta Qq Convexity
+
+/-- Extension for the `positivity` tactic: the weights of a `StdSimplex` are always nonnegative,
+and even positive, ie nonzero, when `R` is nontrivial. -/
```
Comment (grunweg) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: I'm confused by the "ie nonzero". Can you clarify, please?

Comment (YaelDillies) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: Whoops, forgot to strip this LLM-generated comment

**Comment by Vierkantor** [comment]
I'm going to go ahead and assign this PR to Michael, who is probably the best qualified to review it. Feel free to unassign yourself though!

File: MathlibTest/Tactic/Positivity.lean [hunk 3]
```diff
@@ -667,3 +668,20 @@ example {α : Type*} [Semiring α] [Nontrivial α] (a : α) : a ^ 0 ≠ 0 := by
 
 example {α : Type*} [AddGroup α] {a b : α} (ha : a ≠ b) : 0 ≠ b - a := by positivity
 example {α : Type*} [AddGroup α] {a b : α} (ha : a ≠ b) : 0 ≠ a - b := by positivity
+
+/- ## `Convexity.StdSimplex.weights` -/
+
+example {R M : Type*} [PartialOrder R] [Semiring R] (w : Convexity.StdSimplex R M) :
```
Comment (grunweg) [inline MathlibTest/Tactic/Positivity.lean:674]: How about extracting `variable {R M : Type*} [PartialOrder R] [Semiring R]`, so the arguments (here and below) fit on one line?

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 4]
```diff
@@ -757,3 +762,61 @@ lemma isAffineMap_convexCombPair (m : X) :
...
+  let i' ← mkFreshExprMVarQ q($X)
+  assumeInstancesCommute
+  let .defEq _ ← isDefEqQ e q(($w').weights $i') | throwError "not `StdSimplex.weights`"
+  let ⟨w, _⟩ ← instantiateMVarsQ' w'
+  let ⟨i, _⟩ ← instantiateMVarsQ' i'
+  pure (.nonnegative q(StdSimplex.weights_nonneg (w := $w) $i))
+
+end Mathlib.Meta.Positivity
+
+/- ## `Convexity.StdSimplex.weights` -/
```
Comment (grunweg) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:807]: These duplicate the tests in the dedicated tests file. Can you delete this copy, please? (Having it for local development is nice, I agree - but this is the "final polished code for mathlib" stage.)

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 5]
```diff
@@ -76,6 +78,9 @@ variable {R : Type u} [PartialOrder R] [Semiring R] {w : StdSimplex R X} {x : X}
 @[simp] lemma weights_ne_zero [Nontrivial R] : ∀ w : StdSimplex R X, w.weights ≠ 0 := by
```
Comment (grunweg) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:78]: Pre-existing, asking out of curiosity: is there a reason this lemma violates the "hypothesis left of colon" rule?

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 6]
```diff
@@ -757,3 +762,61 @@ lemma isAffineMap_convexCombPair (m : X) :
 end CommSemiring
 
 end Convexity
+
+namespace Mathlib.Meta.Positivity
+open Lean Meta Qq Convexity
+
+/-- Extension for the `positivity` tactic: the weights of a `StdSimplex` are always nonnegative
+(in the sense ),
```
Comment (grunweg) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:770]: the precise condition is missing: do you mean "in the sense of `0 ≤ w.weights`, not `∀ i, 0 ≤ w.weights i`"?

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 7]
```diff
@@ -757,3 +762,61 @@ lemma isAffineMap_convexCombPair (m : X) :
...
+  let ~q(StdSimplex.weights $w) := q($e) | throwError "Not a match"
+  assumeInstancesCommute
+  -- `StdSimplex.weights_pos` needs `Nontrivial R`, so fall back to nonnegativity without it.
+  match ← trySynthInstanceQ q(Nontrivial $R) with
+  | .some _instNontrivial => pure <| .positive q(StdSimplex.weights_pos $w)
+  | _ => pure <| .nonnegative q(StdSimplex.nonneg $w)
+
+/-- Extension for the `positivity` tactic: the weights of a `StdSimplex` are always nonnegative.
+
+This handles `w.weights i`; see `evalStdSimplexWeights` for the unapplied `w.weights`. -/
```
Comment (grunweg) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:789]: This comment is very helpful. Can you add a mirror comment to `evalStdSimplexWeights` also?

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 8]
```diff
@@ -757,3 +762,61 @@ lemma isAffineMap_convexCombPair (m : X) :
...
+namespace Mathlib.Meta.Positivity
+open Lean Meta Qq Convexity
+
+/-- Extension for the `positivity` tactic: the weights of a `StdSimplex` are always nonnegative
+(in the sense ),
+and even positive (in the sense of `0 < w.weights`, not `∀ i, 0 < w.weights i`) when `R` is
+nontrivial. -/
+@[positivity StdSimplex.weights _]
+meta def evalStdSimplexWeights : PositivityExt where eval {_u α} _zα pα? e :=
+  match pα? with | none => pure .none | some _ => do
```
Comment (grunweg) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:775]: What's the purpose of this check? Can you explain and/or add a comment, please?

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 9]
```diff
@@ -757,3 +762,61 @@ lemma isAffineMap_convexCombPair (m : X) :
...
+  let some ⟨_uX, _uR, _X, R, _instZero, _hu, _hα⟩ ← matchFinsupp α | throwError "not a `Finsupp`"
+  let _semiringR ← synthInstanceQ q(Semiring $R)
+  let _partialOrderR ← synthInstanceQ q(PartialOrder $R)
+  assertInstancesCommute
+  let ~q(StdSimplex.weights $w) := q($e) | throwError "Not a match"
```
Comment (grunweg) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:780]:
```suggestion
  let ~q(StdSimplex.weights $w) := q($e) | throwError "not `StdSimplex.weights`"
```

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 10]
```diff
@@ -757,3 +762,61 @@ lemma isAffineMap_convexCombPair (m : X) :
...
+  match ← trySynthInstanceQ q(Nontrivial $R) with
+  | .some _instNontrivial => pure <| .positive q(StdSimplex.weights_pos $w)
+  | _ => pure <| .nonnegative q(StdSimplex.nonneg $w)
+
+/-- Extension for the `positivity` tactic: the weights of a `StdSimplex` are always nonnegative.
+
+This handles `w.weights i`; see `evalStdSimplexWeights` for the unapplied `w.weights`. -/
+@[positivity StdSimplex.weights _ _]
+meta def evalStdSimplexWeightsApply : PositivityExt where eval {_u α} _zα pα? e :=
+  match pα? with | none => pure .none | some _ => do
```
Comment (grunweg) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:792]: Same question as above.

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 11]
```diff
@@ -757,3 +762,61 @@ lemma isAffineMap_convexCombPair (m : X) :
...
+  let _instSemiring ← synthInstanceQ q(Semiring $α)
+  let uX ← mkFreshLevelMVar
+  let X ← mkFreshExprMVarQ q(Type uX)
+  let w' ← mkFreshExprMVarQ q(StdSimplex $α $X)
+  let i' ← mkFreshExprMVarQ q($X)
+  assumeInstancesCommute
+  let .defEq _ ← isDefEqQ e q(($w').weights $i') | throwError "not `StdSimplex.weights`"
+  let ⟨w, _⟩ ← instantiateMVarsQ' w'
+  let ⟨i, _⟩ ← instantiateMVarsQ' i'
+  pure (.nonnegative q(StdSimplex.weights_nonneg (w := $w) $i))
```
Comment (grunweg) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:803]: You could also write the following. Is there a reason you *didn't* do this?
```suggestion
  assumeInstancesCommute
  match e with
  | ~q(StdSimplex.weights $w $i) =>
    pure (.nonnegative q(StdSimplex.weights_nonneg (w := $w) $i))
  | _ => pure .none
```

**Review by grunweg — COMMENTED** [review]
My second batch of comments: the overall shape of this looks useful, but I have a few questions about the implementation.

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean (hunk 8 above)
Comment (eric-wieser) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:775]: I think this is a recent change to the PositivityExt boilerplate; perhaps we should provide a helper to handle this logic.

Comment (grunweg) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:775]: I know, Pan Lin spoke about this in the Bonn seminar. My question was "does anything go wrong if you just delete this line?"... as I don't immediately see how a partial order on \alpha should be required here. Locally deleting it, I get errors though.
